*  Sonnet Data File
*  From: em Version : 16.56
*  From Project: 300MHz_resonator_fullcapacitor_plus_inductorwithGP_variableILDparameters
*  Data is from a network 
*  Data File Written: 03/28/2020 00:44:00
* < HDATE 03/06/2020 17:38:15
* < MDATE 03/27/2020 23:02:33
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_constant = 3.9
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 329.5, 330.5 MHz
.subckt 300MHz_resonator_variableILDparameters_0 1 2 REF
C_C1 1 REF 38.664484794818pf
L_L1 1 3 6.1320202234335nh
R_RL1 3 REF 1.8041820715e-5
L_L2 1 4 1.3099505634448nh
R_RL2 4 2 1.0e-5
L_L3 2 5 7.4510863489107nh
R_RL3 5 REF 3.0512878686e-5
Kn_K1 L_L1 L_L3 0.9078511993437
Kn_K2 L_L2 L_L3 1.0
.ends 300MHz_resonator_variableILDparameters_0

