*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.1
* < ILD_dielectric_const = 3.5
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_0 1 2 3 4 REF
C_C1 1 REF 0.62708421391pf
C_C2 1 2 20.382294920888pf
C_C3 1 3 0.0288439632853pf
C_C4 1 4 0.2814925116856pf
C_C5 2 REF 0.9076163173645pf
C_C6 2 3 0.141082487252pf
C_C7 3 REF 0.9538886443902pf
C_C8 3 4 4.9396877101022pf
C_C9 4 REF 0.9557491387995pf
L_L1 3 5 1.2917205594179nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_1 1 2 3 4 REF
C_C1 1 REF 0.5726382923259pf
C_C2 1 2 20.933081699146pf
C_C3 1 3 0.0262589114368pf
C_C4 1 4 0.2873566286706pf
C_C5 2 REF 0.8604522544811pf
C_C6 2 3 0.1420085798785pf
C_C7 3 REF 0.9555680126952pf
C_C8 3 4 3.607368645619pf
C_C9 4 REF 0.9550946657136pf
L_L1 3 5 1.2927833231746nh
R_RL1 5 4 2.715125629e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_2 1 2 3 4 REF
C_C1 1 REF 0.5240726890516pf
C_C2 1 2 21.538540498119pf
C_C3 1 3 0.02365701799pf
C_C4 1 4 0.293870999223pf
C_C5 2 REF 0.8203077674478pf
C_C6 2 3 0.1431688003675pf
C_C7 3 REF 0.9570331988181pf
C_C8 3 4 2.6791325531051pf
C_C9 4 REF 0.9547484002837pf
L_L1 3 5 1.2936658237202nh
R_RL1 5 4 1.4144587112e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_3 1 2 3 4 REF
C_C1 1 REF 0.4732380476713pf
C_C2 1 2 22.36601075978pf
C_C3 1 3 0.020368586017pf
C_C4 1 4 0.3029326371993pf
C_C5 2 REF 0.7815843570043pf
C_C6 2 3 0.1449619203227pf
C_C7 3 REF 0.9585621443381pf
C_C8 3 4 1.8828290284883pf
C_C9 4 REF 0.9545961098885pf
L_L1 3 5 1.2945554739694nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_4 1 2 3 4 REF
C_C1 1 REF 0.4259194948631pf
C_C2 1 2 23.434686957086pf
C_C3 1 3 0.0163990937032pf
C_C4 1 4 0.3148642321572pf
C_C5 2 REF 0.7506260415175pf
C_C6 2 3 0.1475524802643pf
C_C7 3 REF 0.9599860879021pf
C_C8 3 4 1.247245517087pf
C_C9 4 REF 0.9546367602904pf
L_L1 3 5 1.2954401388471nh
R_RL1 5 4 -1.533765908e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_5 1 2 3 4 REF
C_C1 1 REF 0.3910740700916pf
C_C2 1 2 24.596733168779pf
C_C3 1 3 0.012309742486pf
C_C4 1 4 0.3280572142726pf
C_C5 2 REF 0.7341792252251pf
C_C6 2 3 0.1506606244239pf
C_C7 3 REF 0.9610174446205pf
C_C8 3 4 0.8289456075501pf
C_C9 4 REF 0.9548062737699pf
L_L1 3 5 1.2961498979902nh
R_RL1 5 4 -2.775772555e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_6 1 2 3 4 REF
C_C1 1 REF 0.3656566175033pf
C_C2 1 2 25.860833200422pf
C_C3 1 4 0.3425585272711pf
C_C4 2 REF 0.7291372362339pf
C_C5 2 3 0.1543091294603pf
C_C6 3 REF 0.9617235902595pf
C_C7 3 4 0.544185757812pf
C_C8 4 REF 0.9550317636522pf
L_L1 3 5 1.2967284487725nh
R_RL1 5 4 -3.752083603e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_7 1 2 3 4 REF
C_C1 1 REF 0.3442459266732pf
C_C2 1 2 27.495226841354pf
C_C3 1 4 0.3613937800133pf
C_C4 2 REF 0.7342031421432pf
C_C5 2 3 0.1593413911707pf
C_C6 3 REF 0.9622185293129pf
C_C7 3 4 0.3186895276044pf
C_C8 4 REF 0.9553183947906pf
L_L1 3 5 1.2972689117138nh
R_RL1 5 4 -4.55188374e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_8 1 2 3 4 REF
C_C1 1 REF 0.3260439782086pf
C_C2 1 2 29.584104692899pf
C_C3 1 4 0.3854346316844pf
C_C4 2 REF 0.7496119297464pf
C_C5 2 3 0.1661214354587pf
C_C6 3 REF 0.9624720835242pf
C_C7 3 4 0.1466735408608pf
C_C8 4 REF 0.9556428668662pf
L_L1 1 5 98.882472495121nh
R_RL1 5 2 7.9196769986638
L_L2 3 6 1.2977577268513nh
R_RL2 6 4 -5.086592364e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_9 1 2 3 4 REF
C_C1 1 REF 0.3087250954466pf
C_C2 1 2 32.324524424733pf
C_C3 1 4 0.4167523722406pf
C_C4 2 REF 0.7756205262752pf
C_C5 2 3 0.1754180006314pf
C_C6 3 REF 0.9624714823021pf
C_C7 3 4 0.0214643289096pf
C_C8 4 REF 0.9559926819762pf
L_L1 1 5 62.859896132114nh
R_RL1 5 2 4.367268401621
L_L2 3 6 1.2981574313588nh
R_RL2 6 4 -5.2102464e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_10 1 2 3 4 REF
C_C1 1 REF 0.2884875706287pf
C_C2 1 2 35.955717782062pf
C_C3 1 4 0.4578090907852pf
C_C4 2 REF 0.8114782503963pf
C_C5 2 3 0.1881311982939pf
C_C6 3 REF 0.9622483418931pf
C_C7 4 REF 0.956362445896pf
L_L1 1 5 39.443527405219nh
R_RL1 5 2 1.9139577034175
L_L2 3 6 1.2981211537707nh
R_RL2 6 4 -4.854001509e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_11 1 2 3 4 REF
C_C1 1 REF 0.2595430786961pf
C_C2 1 2 41.009853533264pf
C_C3 1 4 0.5142479516348pf
C_C4 2 REF 0.8586888066692pf
C_C5 2 3 0.2062083477583pf
C_C6 3 REF 0.9618266072163pf
C_C7 4 REF 0.9567698785397pf
L_L1 1 5 23.775736689759nh
R_RL1 5 2 -0.836489209039
L_L2 3 6 1.297845976021nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_12 1 2 3 4 REF
C_C1 1 REF 0.2141280898574pf
C_C2 1 2 48.312734404186pf
C_C3 1 4 0.5949260762024pf
C_C4 2 REF 0.9211445989817pf
C_C5 2 3 0.2326098344511pf
C_C6 3 REF 0.9612360287361pf
C_C7 4 REF 0.9572627994773pf
L_L1 1 5 14.436672397659nh
R_RL1 5 2 0.375812771219
L_L2 3 6 1.2974135074321nh
R_RL2 6 4 -2.583983769e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_13 1 2 3 4 REF
C_C1 1 REF 0.1369241594732pf
C_C2 1 2 59.817164926305pf
C_C3 1 4 0.7210458495482pf
C_C4 2 REF 1.0117248822303pf
C_C5 2 3 0.2743206517203pf
C_C6 3 REF 0.9604620093256pf
C_C7 4 REF 0.9579770220915pf
R_R1 1 2 667.54657858561
L_L1 1 5 8.4644031727605nh
R_RL1 5 2 0.7419018981236
L_L2 3 6 1.2966841227017nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_14 1 2 3 4 REF
C_C1 1 2 79.561960693175pf
C_C2 1 4 0.93669942815pf
C_C3 2 REF 1.1594467380001pf
C_C4 2 3 0.3457673200452pf
C_C5 3 REF 0.9594338237806pf
C_C6 4 REF 0.9592279377288pf
R_R1 1 2 301.33363978492
L_L1 1 5 4.7713498712254nh
R_RL1 5 2 -0.3441926801
L_L2 3 6 1.2955193094573nh
R_RL2 6 4 1.0786744497e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_15 1 2 3 4 REF
C_C1 1 2 119.83290170346pf
C_C2 1 4 1.3761777317065pf
C_C3 2 REF 1.4541054379539pf
C_C4 2 3 0.4909856586445pf
C_C5 3 REF 0.9578528077331pf
C_C6 4 REF 0.9619911121308pf
R_R1 1 2 143.47500593393
L_L1 1 5 2.0022707751114nh
R_RL1 5 2 -0.160860372484
L_L2 1 6 83.02079851075nh
R_RL2 6 3 -0.17039580815
L_L3 1 7 82.274698128271nh
R_RL3 7 4 -0.171035720464
L_L4 2 8 83.071087210536nh
R_RL4 8 3 0.0099106580056
L_L5 2 9 82.327564220428nh
R_RL5 9 4 0.0097706725172
L_L6 3 10 1.2932068433226nh
R_RL6 10 4 2.9690910786e-5
Kn_K1 L_L1 L_L2 0.0756991446511
Kn_K2 L_L1 L_L3 0.0759412001564
Kn_K3 L_L1 L_L4 -0.079575504916
Kn_K4 L_L1 L_L5 -0.080034404346
Kn_K5 L_L2 L_L3 0.992186501342
Kn_K6 L_L2 L_L4 0.9879448460406
Kn_K7 L_L2 L_L5 0.9800625134259
Kn_K8 L_L2 L_L6 -0.098406823253
Kn_K9 L_L3 L_L4 0.9800961332307
Kn_K10 L_L3 L_L5 0.9878357541374
Kn_K11 L_L3 L_L6 0.0265200721924
Kn_K12 L_L4 L_L5 0.9921912985401
Kn_K13 L_L4 L_L6 -0.098252698016
Kn_K14 L_L5 L_L6 0.0266364506542
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_16 1 2 3 4 REF
C_C1 1 2 239.54286317009pf
C_C2 1 4 2.6834285762896pf
C_C3 2 REF 2.3258319379335pf
C_C4 2 3 0.9215625236353pf
C_C5 3 REF 0.9541672656321pf
C_C6 4 REF 0.9709397327803pf
R_R1 1 2 53.623538981841
L_L1 1 5 87.937477177811nh
R_RL1 5 REF -4.371535731937
L_L2 1 6 0.6828241850243nh
R_RL2 6 2 -0.062077772168
L_L3 1 7 32.496804771849nh
R_RL3 7 3 -0.051211438671
L_L4 1 8 31.800050045933nh
R_RL4 8 4 -0.051951247882
L_L5 2 9 87.341886631427nh
R_RL5 9 REF -4.458345825175
L_L6 2 10 32.588616989178nh
R_RL6 10 3 0.0014566503956
L_L7 2 11 31.895475970603nh
R_RL7 11 4 0.0014402243094
L_L8 3 12 1.2866539137616nh
R_RL8 12 4 4.3207018726e-5
Kn_K1 L_L1 L_L2 0.0824898135991
Kn_K2 L_L1 L_L5 0.9961101169588
Kn_K3 L_L2 L_L3 0.0627323419872
Kn_K4 L_L2 L_L4 0.0630281138843
Kn_K5 L_L2 L_L5 1.0
Kn_K6 L_L2 L_L6 -0.082107058482
Kn_K7 L_L2 L_L7 -0.083381596001
Kn_K8 L_L3 L_L4 0.9800463967285
Kn_K9 L_L3 L_L5 1.0
Kn_K10 L_L3 L_L6 0.9895097843917
Kn_K11 L_L3 L_L7 0.9694005262955
Kn_K12 L_L3 L_L8 -0.153366674826
Kn_K13 L_L4 L_L5 1.0
Kn_K14 L_L4 L_L6 0.9695414954133
Kn_K15 L_L4 L_L7 0.9892809823175
Kn_K16 L_L4 L_L8 0.0461108393986
Kn_K17 L_L6 L_L7 0.9801035794265
Kn_K18 L_L6 L_L8 -0.152871446462
Kn_K19 L_L7 L_L8 0.0463238607219
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_17 1 2 3 4 REF
C_C1 1 2 1214.7303658619pf
C_C2 1 4 13.340421753566pf
C_C3 2 REF 9.4297037218644pf
C_C4 2 3 4.4263961181301pf
C_C5 3 REF 0.9280857837856pf
C_C6 4 REF 1.0478983087702pf
R_R1 1 REF -635.0423181561
R_R2 1 2 5.421172336567
R_R3 1 4 464.647948967
R_R4 2 REF 614.94931096876
R_R5 2 4 -464.4748921176
L_L1 1 5 10.304304355699nh
R_RL1 5 REF -0.080390407057
L_L2 1 6 0.0911342042673nh
R_RL2 6 2 -0.014354558463
L_L3 1 7 5.6033348988837nh
R_RL3 7 3 -8.839823303e-3
L_L4 1 8 4.9652752147203nh
R_RL4 8 4 -9.883663754e-3
L_L5 2 9 10.246471211615nh
R_RL5 9 REF -0.098338986012
L_L6 2 10 5.6244097154761nh
R_RL6 10 3 -5.055439898e-4
L_L7 2 11 4.9910414842923nh
R_RL7 11 4 -3.109641901e-4
L_L8 3 12 15.803700140711nh
R_RL8 12 REF -0.092274280847
L_L9 3 13 1.2351833764155nh
R_RL9 13 4 2.2188627776e-5
L_L10 4 14 15.158446968934nh
R_RL10 14 REF -0.093650380884
Kn_K1 L_L1 L_L2 0.0768618882991
Kn_K2 L_L1 L_L5 0.9955693551062
Kn_K3 L_L1 L_L8 0.8034041128587
Kn_K4 L_L1 L_L10 0.8200374754477
Kn_K5 L_L2 L_L3 0.0490198918296
Kn_K6 L_L2 L_L4 0.048587259308
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.078364361469
Kn_K9 L_L2 L_L7 -0.086666245568
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8847410425483
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9918848719084
Kn_K15 L_L3 L_L7 0.8758303917117
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.356020599922
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8768971271483
Kn_K21 L_L4 L_L7 0.9908499125369
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1205582473479
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8025677630771
Kn_K26 L_L5 L_L10 0.8189944808581
Kn_K27 L_L6 L_L7 0.8852199196666
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.35446299896
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.121191401663
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2128058578188
Kn_K35 L_L8 L_L10 0.960315221853
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_18 1 2 3 4 REF
C_C1 1 REF 17.066792630789pf
C_C2 1 3 8.234941046598pf
C_C3 2 4 24.833569608687pf
C_C4 3 REF 1.0186045228106pf
C_C5 4 REF 0.770320680904pf
R_R1 1 REF 634.56327048253
R_R2 1 2 -6.260439543078
R_R3 1 4 -513.6212789573
R_R4 2 REF -656.2178857021
R_R5 2 4 514.025549378
L_L1 1 5 4.4546043929767nh
R_RL1 5 REF -0.013575985441
L_L2 1 6 0.3964753939994nh
R_RL2 6 2 0.3913998817222
L_L3 1 7 2.981937438433nh
R_RL3 7 3 0.188034183297
L_L4 1 8 2.4461660005369nh
R_RL4 8 4 0.2472358807586
L_L5 2 9 4.8207685544485nh
R_RL5 9 REF 0.4309896627136
L_L6 2 10 2.8619641351299nh
R_RL6 10 3 0.0368108068176
L_L7 2 11 2.2569623425906nh
R_RL7 11 4 0.0164288562093
L_L8 3 12 7.4390914606279nh
R_RL8 12 REF 0.2109210859222
L_L9 3 13 1.1664574916116nh
R_RL9 13 4 0.0040835389108
L_L10 4 14 6.9127159514899nh
R_RL10 14 REF 0.2754050014491
Kn_K1 L_L1 L_L2 0.011404097202
Kn_K2 L_L1 L_L5 0.9580018287928
Kn_K3 L_L1 L_L8 0.7740497765698
Kn_K4 L_L1 L_L10 0.8038261510045
Kn_K5 L_L2 L_L3 0.2374869812561
Kn_K6 L_L2 L_L4 0.2973573054675
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.129786108442
Kn_K9 L_L2 L_L7 -0.1095569197
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0509007266912
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7889602883551
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9323522014908
Kn_K16 L_L3 L_L7 0.7218272609912
Kn_K17 L_L3 L_L8 0.9460720153261
Kn_K18 L_L3 L_L9 -0.456356509022
Kn_K19 L_L3 L_L10 0.9824657918289
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6946507990632
Kn_K22 L_L4 L_L7 0.916441527887
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1866834467843
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0327967305298
Kn_K27 L_L5 L_L7 0.0250134149411
Kn_K28 L_L5 L_L8 0.7846618604012
Kn_K29 L_L5 L_L9 -0.016578496909
Kn_K30 L_L5 L_L10 0.8207983795572
Kn_K31 L_L6 L_L7 0.7775784665158
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.484768762748
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1730170424861
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.287335782954
Kn_K39 L_L8 L_L10 0.919342546015
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_19 1 2 3 4 REF
C_C1 1 2 450.78081335003pf
C_C2 1 4 4.9858835754628pf
C_C3 2 REF 3.8654468073316pf
C_C4 2 3 1.678891987915pf
C_C5 3 REF 0.9472731456694pf
C_C6 4 REF 0.9857955265051pf
R_R1 1 2 -65.98564805539
L_L1 1 5 21.499490538059nh
R_RL1 5 REF -0.226486653467
L_L2 1 6 0.1154058372143nh
R_RL2 6 2 0.0032118369155
L_L3 1 7 9.9089795307386nh
R_RL3 7 3 9.6192472173e-5
L_L4 1 8 9.2418530164993nh
R_RL4 8 4 1.8026223655e-4
L_L5 2 9 21.303645746206nh
R_RL5 9 REF -0.226994039194
L_L6 2 10 9.976989577374nh
R_RL6 10 3 0.0010883437151
L_L7 2 11 9.3174762147631nh
R_RL7 11 4 9.3315442751e-4
L_L8 3 12 31.201284559269nh
R_RL8 12 REF -0.22944579638
L_L9 3 13 1.2608525193615nh
R_RL9 13 4 3.1232683792e-5
L_L10 4 14 30.525668416742nh
R_RL10 14 REF -0.229934376379
Kn_K1 L_L1 L_L2 0.0987989365184
Kn_K2 L_L1 L_L5 0.9973142389447
Kn_K3 L_L1 L_L8 0.8260953791009
Kn_K4 L_L1 L_L10 0.8350215214588
Kn_K5 L_L2 L_L3 0.0221605952957
Kn_K6 L_L2 L_L4 0.0192606161481
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.085465984565
Kn_K9 L_L2 L_L7 -0.092109908922
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9347293205635
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9942024342261
Kn_K15 L_L3 L_L7 0.9284620308427
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.272725470801
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9294664956296
Kn_K21 L_L4 L_L7 0.993790038314
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0869649800883
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8247667709073
Kn_K26 L_L5 L_L10 0.833528260169
Kn_K27 L_L6 L_L7 0.9351986059264
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.270721084605
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0877219337862
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1543697123965
Kn_K35 L_L8 L_L10 0.9796323928565
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_20 1 2 3 4 REF
C_C1 1 2 90.125264898983pf
C_C2 1 4 1.0416329483166pf
C_C3 2 REF 1.2419357124251pf
C_C4 2 3 0.3816387964294pf
C_C5 3 REF 0.9565202077806pf
C_C6 4 REF 0.9568076223076pf
R_R1 1 2 409.41279860111
L_L1 1 5 0.4354396894588nh
R_RL1 5 2 -0.010229114384
L_L2 1 6 45.522135659537nh
R_RL2 6 3 0.0011533815818
L_L3 1 7 44.733766519012nh
R_RL3 7 4 0.0010688442526
L_L4 2 8 45.93044329544nh
R_RL4 8 3 -3.461934266e-3
L_L5 2 9 45.150728287412nh
R_RL5 9 4 -3.321815446e-3
L_L6 3 10 1.2855765414531nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.094333965067
Kn_K2 L_L1 L_L5 -0.096120894212
Kn_K3 L_L2 L_L3 0.9857939234163
Kn_K4 L_L2 L_L4 0.9952485480806
Kn_K5 L_L2 L_L5 0.980932286423
Kn_K6 L_L2 L_L6 -0.1355523647
Kn_K7 L_L3 L_L4 0.9811986143134
Kn_K8 L_L3 L_L5 0.9951662714918
Kn_K9 L_L3 L_L6 0.0327824106324
Kn_K10 L_L4 L_L5 0.9859215026863
Kn_K11 L_L4 L_L6 -0.13438539877
Kn_K12 L_L5 L_L6 0.03319864138
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_21 1 2 3 4 REF
C_C1 1 REF 0.3467084843328pf
C_C2 1 2 35.179672230266pf
C_C3 1 4 0.4415831684223pf
C_C4 2 REF 0.8495466138816pf
C_C5 2 3 0.1827463698264pf
C_C6 3 REF 0.9572330863141pf
C_C7 4 REF 0.9516212297448pf
R_R1 1 2 413.81185504465
L_L1 1 5 0.8390209393517nh
R_RL1 5 2 0.0393010093878
L_L2 3 6 1.2892229092702nh
R_RL2 6 4 -3.218487814e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_22 1 2 3 4 REF
C_C1 1 REF 0.4788246983768pf
C_C2 1 2 17.748884050249pf
C_C3 1 3 0.0622828684892pf
C_C4 1 4 0.2505542174884pf
C_C5 2 REF 0.7296163270099pf
C_C6 2 3 0.1178928627815pf
C_C7 3 REF 0.9565879639105pf
C_C8 4 REF 0.9489193906642pf
R_R1 1 2 933.73184435852
L_L1 1 5 1.2047275859388nh
R_RL1 5 2 0.0123802834885
L_L2 3 6 1.2871531115322nh
R_RL2 6 4 -3.18496401e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_23 1 2 3 4 REF
C_C1 1 REF 0.535276196996pf
C_C2 1 2 10.83346978463pf
C_C3 1 3 0.0949394893122pf
C_C4 1 4 0.1724895010815pf
C_C5 2 REF 0.6862133700234pf
C_C6 2 3 0.089342419396pf
C_C7 2 4 0.023234742096pf
C_C8 3 REF 0.9555700880039pf
C_C9 4 REF 0.9469640676297pf
L_L1 1 5 1.6639936638459nh
R_RL1 5 2 0.0366878928106
L_L2 3 6 1.2845934910237nh
R_RL2 6 4 1.0903479279e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_24 1 2 3 4 REF
C_C1 1 REF 0.5640081932385pf
C_C2 1 2 8.1784526669926pf
C_C3 1 3 0.1162791078827pf
C_C4 1 4 0.1385384695798pf
C_C5 2 REF 0.6778378168797pf
C_C6 2 3 0.0732025380167pf
C_C7 2 4 0.0626313405058pf
C_C8 3 REF 0.9540084533575pf
C_C9 4 REF 0.9448010313029pf
L_L1 1 5 1.8384004752599nh
R_RL1 5 2 0.0543957561233
L_L2 3 6 1.2812882782272nh
R_RL2 6 4 5.5828041695e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_25 1 2 3 4 REF
C_C1 1 REF 0.5793426135514pf
C_C2 1 2 7.5559191015625pf
C_C3 1 3 0.1380105338022pf
C_C4 1 4 0.1220234061405pf
C_C5 2 REF 0.6880291989909pf
C_C6 2 3 0.0579765845247pf
C_C7 2 4 0.0859882143352pf
C_C8 3 REF 0.9520147140142pf
C_C9 4 REF 0.9422460310107pf
L_L1 1 5 1.8789986099418nh
R_RL1 5 2 -5.171581619e-4
L_L2 3 6 1.2772301118722nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_26 1 2 3 4 REF
C_C1 1 REF 0.5825262945387pf
C_C2 1 2 7.9270113045982pf
C_C3 1 3 0.1562477322225pf
C_C4 1 4 0.1152777704186pf
C_C5 2 REF 0.7016749524587pf
C_C6 2 3 0.0446446718867pf
C_C7 2 4 0.0978916292819pf
C_C8 3 REF 0.9506830982497pf
C_C9 4 REF 0.9405122050161pf
L_L1 1 5 1.8000639190156nh
R_RL1 5 2 -0.018648341487
L_L2 3 6 1.2754871004831nh
R_RL2 6 4 -9.676068288e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param01_26

